US06025494
Methyl 1,2,3,4-tetrahydro-1-(5-methyl-2-thienyl)-9H-pyrido [3,4-b]indole-3-carboxylate, Cis and Trans Isomers
The same method but starting from racemic tryptophan methyl ester and 5-methyl-2-thiophenecarboxaldehyde gave the cis and trans isomers of the title compound.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 5-methyl-2-thiophenecarboxaldehyde | CC1=CC=C(S1)C=O | C6H6OS
product | Methyl 1,2,3,4-tetrahydro-1-(5-methyl-2-thienyl)-9H-pyrido [3,4-b]indole-3-carboxylate | CC1=CC=C(S1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C18H18N2O2S
